US07897597B2
(4-Amino-7-benzyloxy-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)-2-methylpropan-2-ol was debenzylated using the general method of Example 5. Upon completion of the reaction, the catalyst was removed by filtration through a polytetrafluoroethylene (PTFE) membrane and the filtrate was concentrated under reduced pressure to give a tan solid. The solid was slurried in 1% aqueous sodium carbonate. This formed a gooey slurry. The pH was lowered to 1 with the addition of concentrated hydrochloric acid. When a homogenous solution was formed, the pH was adjusted back to 5 with the addition of 1% aqueous sodium carbonate. A solid precipitated and was collected by filtration. The solid was dried under a stream of air to give 4-amino-2-ethoxymethyl-1-(2-hydroxy-2-methylpropyl)-1H-imidazo[4,5-c]quinolin-7-ol as an off-white solid.

reactant | (4-Amino-7-benzyloxy-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)-2-methylpropan-2-ol | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CC(C)(O)C)COCC)OCC2=CC=CC=C2 | C24H28N4O3
reactant | hydrochloric acid | Cl | ClH
solvent | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
product | 4-amino-2-ethoxymethyl-1-(2-hydroxy-2-methylpropyl)-1H-imidazo[4,5-c]quinolin-7-ol | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CC(C)(C)O)COCC)O | C17H22N4O3
